US06376555B1
Preparation of 3-[Oxo-1-(4-trifluoromethyl-phenyl)-propyl]-4-(1,1,1-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione.
3-[2-Oxo-1-(4-trifluoromethyl-phenyl)-propyl]-4-ethoxy-cyclobut-3-ene-1,2-dione (0.350 g, 1.07 mmol) and 2-amino-3,3-dimethylbutane (0.13 mL, 0.998 mmol) were stirred together in ethanol (6 mL) at room temperature overnight. Diethyl ether (25 mL) was added and the precipitated product was collected by filtration. It was stirred in diethyl ether/petroleum ether overnight, filtered and dried in vacuo to afford 0.15 g (37%) of desired product (1H NMR in CDCl3 suggested the presence of both the keto and enol forms in about an 8:1 ratio) as an off-white solid: m.p. 178.2-179.8° C.; 1H NMR (CDCl3) δ 11.74(s,1H), 7.73(ABq,2H), 7.39(ABq,2H), 3.92(m,1H), 1.86(s,3H), 0.93(d,3H), 0.69(s,9H); IR (KBr) 3310, 2970, 2600, 1775, 1710, 1560, 1395, 1260, 1160, 1125, 850 cm−1; MS (m/z) 381 [M+].

reactant | 3-[2-Oxo-1-(4-trifluoromethyl-phenyl)-propyl]-4-ethoxy-cyclobut-3-ene-1,2-dione | 1.07 mmol, 0.350 g | O=C(C(C1=CC=C(C=C1)C(F)(F)F)C=1C(C(C1OCC)=O)=O)C | C16H13F3O4
reactant | 2-amino-3,3-dimethylbutane | 0.998 mmol, 0.13 mL | NC(C)C(C)(C)C | C6H15N
reactant | Diethyl ether | 25 mL | C(C)OCC | C4H10O
solvent | ethanol | 6 mL | C(C)O | C2H6O
product | 3-[Oxo-1-(4-trifluoromethyl-phenyl)-propyl]-4-(1,1,1-trimethyl-propylamino)-cyclobut-3-ene-1,2-dione | 0.15 g, 37% | O=CCC(C1=CC=C(C=C1)C(F)(F)F)C=1C(C(C1NC(C(C)(C)C)C)=O)=O | C20H22F3NO3
